US05273999
Preparation of 2-[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]benzenebutanoic Acid
Using the procedure of example 4, 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one was converted into the title compound by alkylation with 2-[(5-bromopentyl)oxy]benzenebutanoic acid methyl ester from the preceding example, followed by saponification, in 46.5% overall yield. The product was an off-white solid, mp 116°-118° C., recrystallized from acetonitrile.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 2-[(5-bromopentyl)oxy]benzenebutanoic acid methyl ester | COC(CCCC1=C(C=CC=C1)OCCCCCBr)=O | C16H23BrO3
product | 2-[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]benzenebutanoic Acid | O=C1CCOC2=C1C=CC(=C2CCC)OCCCCCOC2=C(C=CC=C2)CCCC(=O)O | C27H34O6
